US05693617
a) Boc-L-norvaline N,O-dimethylhydroxylamide
1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (443 mg) in one portion was added to a mixture of N-Boc-L-norvaline dicyclohexylammonium salt (838 mg), N,O-dimethylhydroxylamine hydrochloride (215 mg), 1-hydroxybenzotriazole monohydrate (340 mg), and N-methylmorpholine (0.28 ml) in dimethyl formamide (DMF, 20 ml) at 0° C. The mixture was stirred at 0° C. for 2 hours, then at room temperature for 40 hours. The reaction was quenched with water (80 mL) and the mixture was extracted with ethyl acetate (EtOAc, 3×100 mL). The combined organic layers were washed with aqueous 10% hydrogen chloride (HCl), saturated sodium bicarbonate (NaHCO3), and brine, then dried over anhydrous magnesium sulfate (MgSO4), filtered, and evaporated to afford the product (546 mg) as an oil.

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 443 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-Boc-L-norvaline dicyclohexylammonium salt | 838 mg | C1(CCCCC1)[NH2+]C1CCCCC1.C(=O)(OC(C)(C)C)N[C@@H](CCC)C(=O)[O-]
reactant | N,O-dimethylhydroxylamine hydrochloride | 215 mg | Cl.CNOC
reactant | 1-hydroxybenzotriazole monohydrate | 340 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.28 ml | CN1CCOCC1 | C5H11NO
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | Boc-L-norvaline N,O-dimethylhydroxylamide | 546 mg | CN(C([C@@H](NC(=O)OC(C)(C)C)CCC)=O)OC | C12H24N2O4
